Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / steri-strips
 
Attending: ___.
 
Chief Complaint:
pregnancy at 16 weeks gestational age 
 
Major Surgical or Invasive Procedure:
Dilation and curettage (two), uterine artery embolization

 
History of Present Illness:
___ year old G5P2 at 16 weeks gestational age opted to pursue 
elective termination for known fetal anomalies (trisomy 21).
 
Past Medical History:
Past Medical: pre-eclampsia
Past Surgical: cesarian section x2
Allergies: Sulfa
 
Social History:
___
Family History:
Not contributory 
 
Physical Exam:
Vitals: stable with within normal
Gen: no acute distress, pain well controlled
Cardiac: regular rate and rhythm
Pulmonary: normal work of breathing
Abd: non distended, tender to light palpation in all 4 
quadrants, + Fundal tenderness
GU: pad with scant spotting
 
Pertinent Results:
LABS
___ 03:36PM   WBC-16.8* RBC-3.12* HGB-9.7* HCT-28.1* MCV-90 
MCH-31.1 MCHC-34.5 RDW-13.2 RDWSD-43.0
___ 03:36PM   ___
___ 01:15PM   ___ 11:15AM   GLUCOSE-87 UREA N-5* CREAT-0.4 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-19* ANION GAP-15
___ 11:15AM   ALT(SGPT)-11 AST(SGOT)-14 ALK PHOS-49 TOT 
BILI-0.5
___ 11:15AM   TOT PROT-5.1* ALBUMIN-3.1* GLOBULIN-2.0 
CALCIUM-7.7*
___ 11:15AM   WBC-13.6* RBC-3.00* HGB-9.4* HCT-27.6* MCV-92 
MCH-31.3 MCHC-34.1 RDW-13.0 RDWSD-43.2

IMAGING
Ultrasound - intraoperative (___): 1.  The uterine fundus 
appears intact. 
2.  There is linear air within the myometrium of the anterior 
lower uterine segment with an echogenic avascular region within 
the lower anterior uterine segment and possibly on the surface 
of the uterus.  Evaluation for uterine wall dehiscence would be 
better evaluated by a contrast-enhanced CT pelvis. 
3.  No complex fluid collection within the pelvis to suggests 
presence of a pelvic hematoma. 

CT Pelvis w Contrast (___): Large amount of heterogeneous 
material in the endometrial cavity, compatible with blood 
products.  Multiple locules of air within the endometrial cavity 
are likely postprocedural in nature.  Flowing contrast within 
the endometrial cavity is concerning for active bleed, with the 
greatest density of contrast adjacent to the anterior wall of 
the lower uterine segment, which may be the source of bleed. 
  
2.  Bulge of the anterior wall of the lower uterine segment 
containing blood products and gas locules, without visualization 
of any overlying myometrium.  The fat plane between the anterior 
wall of the uterus and the bladder is preserved, therefore 
uterine dehiscence is felt less likely at this time.  However, 
close clinical follow-up is recommended. 
  

 
Brief Hospital Course:
On ___, Ms. ___ is a ___ year old G5P2 woman who 
was admitted to the gynecology service after undergoing dilation 
and evacuation at 16 weeks gestational age for known fetal 
anomalies (trisomy ___) complicated by uterine atony not 
adequately responsive to uterotonics (pitocin, methergine, 
misoprostol) requiring a second dilation and curettage procedure 
as well as uterine artery embolization. Please see the operative 
reports for full details. She was admitted for observation, 
monitoring of her bleeding, and pain control.

Total estimated blood loss was approximately 1400 ml. She 
received a total of 3 unites of pure red blood cells for 
symptomatic blood loss anemia and blood pressures in the 
100/50s. Intraoperative ultrasound during the repeat dilation 
and curettage showed a large amount of clot in the endometrium. 
A CT pelvis with contrast was performed to better evaluate for 
the uterine myometrium; uterine dehiscence and free fluid were 
not seen, but contrast extravasation from the left anterior wall 
into the endometrial cavity raised concern for an active bleed. 
The patient was taken to Interventional Radiology for uterine 
artery embolization, which was successful. Afterwards, her vital 
signs normalized and she remained hemodynamically stable. Her 
hematocrit was also stable between 24.2 and 25.4.

Immediately post-op, her pain was controlled with hydromorphone 
PCA and acetaminophen. Her diet was advanced without difficulty 
and she was transitioned to oral hydromorphone, acetaminophen, 
and ibuprofen. A foley had been placed on after her procedure 
out of concern for urinary retention. Preliminary results of a 
urine culture from a catheter specimen is growing ___ CFU 
of E. coli. On post-operative day 2, her urine output was 
adequate so her foley was removed and she voided spontaneously.  
By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
Aspirin 81 mg PO daily 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
do not exceed 4000mg acetaminophen in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
do not drink alcohol or drive while taking 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every ___ hours 
Disp #*20 Tablet Refills:*0 
4.  Ibuprofen 400 mg PO Q8H 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dilation and curettage, postpartum hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* You may eat a regular diet.
* You may walk up and down stairs.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___